US20010014683A1
(S)-1-(3-Methoxymethoxyphenyl)-1,2-ethanediol
A mixture of 3-methoxymethoxystyrene (prepared by methoxymnethylation of 3-hydroxystyrene in a standard manner) (1.54 g, 9.39 mmol), and AD-mix-α (13.18 g, 9.41 mmol) in water (48 ml) and t-BuOH (48 ml) was stirred at 0° C. for 6.5 h. To this reaction mixture was added Na2SO3 (14.13 g) and the mixture was stirred at rt for 1 H. The reaction mixture was extracted with ethyl acetate. The extra was washed with brine, dried (Na2SO4), and concentrated to give light brown oil, which was purified by column chromatography (silica gel; 90 g, ethyl acetate/hexane:1/2-3/1) to afford 1.69 g (91%) of desired product as colorless oil.

reactant | 3-methoxymethoxystyrene | COCOC=1C=C(C=C)C=CC1 | C10H12O2
reactant | 3-hydroxystyrene | OC=1C=C(C=C)C=CC1 | C8H8O
reactant | AD-mix-α | 9.41 mmol, 13.18 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | Na2SO3 | 14.13 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | water | 48 ml | O | H2O
solvent | t-BuOH | 48 ml | CC(C)(C)O | C4H10O
product | (S)-1-(3-Methoxymethoxyphenyl)-1,2-ethanediol | 1.69 g, 91% | COCOC=1C=C(C=CC1)[C@@H](CO)O | C10H14O4
